US05399542
2-Propionyl-3-hydroxy-5-(N-(2-propenyl)-3-oxo-(2H, 4H)-1,4-benzoxazin-6-yl )-cyclohex-2-en-1-one
Sixty percent sodium hydride in mineral oil 0.60 g (15 mmol NaH) was washed once with 15 mL of hexane, decanting via pipette. To this was added 1.6 g (5.1 mmol) of 2-propionyl-3-hydroxy-5-(3-oxo-(2H, 4H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one in solid portions. The mixture was stirred at room temperature for 15 minutes, treated with 1.4 g (12 mmol) of allyl bromide and stirred at room temperature for 30 minutes. The mixture was poured into 100 mL of ice cold 0.2N HCl and extracted twice with 30 mL portions of a 5:1 ether-ethyl acetate mixture. The extracts were combined, washed with water, an aqueous NaCl solution, dried over MgSO4, filtered and the solvent evaporated off to give the crude product, as a yellow solid. Recrystallization from ethanol afforded the above-named product in a yield of 1.4 g (77 percent of theoretical). The product melted at 129°-131.5° C.; 1 H NMR (CDCl3): d1.10 (t, J=7 Hz, 3H, --CH3), 2.55-3.56 (m, 7H), 4.52-4.73 (m including s at 4.50 for OCH2, 4H, --NCH2), 5.12-5.42 (m, 2H, --CH=CH2), 5.70-6.15 (m, 1H, --CH=CH2), 6.82-7.10 (m, 3H, aromatic H's), 18.10 (broad s, 1H, enol O--H).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-propionyl-3-hydroxy-5-(3-oxo-(2H, 4H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | 5.1 mmol, 1.6 g | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(NC(CO2)=O)C1)=O | C17H17NO5
reactant | allyl bromide | 12 mmol, 1.4 g | C(C=C)Br | C3H5Br
solvent | hexane | 15 mL | CCCCCC | C6H14
product | 2-Propionyl-3-hydroxy-5-(N-(2-propenyl)-3-oxo-(2H, 4H)-1,4-benzoxazin-6-yl )-cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CC=C)C1)=O | C20H21NO5
